US09193733B2
Step 1. [2-bromo-1-(bromomethyl)ethoxy](tert-butyl)diphenylsilane
To a solution of 1,3-dibromo-2-propanol (20.00 g, 91.79 mmol) in methylene chloride (DCM) (100 mL) cooled to 0° C. was added 1H-imidazole (6.56 g, 96.4 mmol) followed by tert-butylchlorodiphenylsilane (25.1 mL, 96.4 mmol) and 4-dimethylaminopyridine (1.12 g, 9.18 mmol). The reaction was stirred with warming to room temperature overnight. The reaction mixture was diluted with diethyl ether, washed with water, and the aqueous layer was again extracted once with ether. The combined organic extracts were washed with water, followed by brine, dried over sodium sulfate, decanted and concentrated. Flash chromatography (eluting with a gradient from 0-15% ethyl acetate/hexanes) afforded desired product (42 g, 100%). 1H NMR (300 MHz, CDCl3): δ 7.72-7.66 (m, 4H), 7.51-7.37 (m, 6H), 4.00-3.91 (m, 1H), 3.49-3.45 (m, 4H), 1.09 (s, 9H).

reactant | 1,3-dibromo-2-propanol | 91.79 mmol, 20.00 g | BrCC(CBr)O | C3H6Br2O
reactant | 1H-imidazole | 96.4 mmol, 6.56 g | N1C=NC=C1 | C3H4N2
reactant | tert-butylchlorodiphenylsilane | 96.4 mmol, 25.1 mL | C(C)(C)(C)[Si](C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C16H19ClSi
solvent | methylene chloride | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 9.18 mmol, 1.12 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | diethyl ether | C(C)OCC | C4H10O
product | [2-bromo-1-(bromomethyl)ethoxy](tert-butyl)diphenylsilane | 42 g, 100% | BrCC(O[Si](C1=CC=CC=C1)(C1=CC=CC=C1)C(C)(C)C)CBr | C19H24Br2OSi
